US08871767B2
N-(5-(6-(4-cyano-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
A 200 mL flask is charged with 2-(4-methyl-3-pivalamidophenyl)imidazo[1,2-b]pyridazin-6-ylboronic acid (11.4 g, 0.0325 mol), 4-bromo-3-(trifluoromethyl)benzonitrile (10.16 g, 0.04 mol), K2CO3 (8.98 g, 0.065 mol), palladium acetate (0.510 g, 2.28 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (1.868 g, 4.55 mmol) and a solution of isopropanol-water (3:1, 80 mL). The mixture is degassed by bubbling N2 through and heated at 90° C. for 5 hours. The mixture is then cooled and filtered through celite, concentrated and purified by silica gel chromatography (0-100% EtOAc in CH2Cl2). The desired fractions are combined and stirred for 24 hours with QuadraSil MP (a mercaptopropyl bound silica gel, 20 g) to scavenge the palladium, filtered and concentrated to give desired title compound (7.5 g). LCMS (m/z)=478.6 [M+H]+, tR=2.97 min.

reactant | 2-(4-methyl-3-pivalamidophenyl)imidazo[1,2-b]pyridazin-6-ylboronic acid | 0.0325 mol, 11.4 g | CC1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)B(O)O)C1)NC(C(C)(C)C)=O | C18H21BN4O3
reactant | 4-bromo-3-(trifluoromethyl)benzonitrile | 0.04 mol, 10.16 g | BrC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | K2CO3 | 0.065 mol, 8.98 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 4.55 mmol, 1.868 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | palladium acetate | 2.28 mmol, 0.510 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | isopropanol water | 80 mL | C(C)(C)O.O
product | N-(5-(6-(4-cyano-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 7.5 g | C(#N)C1=CC(=C(C=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C)C(F)(F)F | C26H22F3N5O
